US07132456B2
Prepared in the same manner as described for example 1. A solution of 4′-(2-phenoxy-ethylsulfanylmethyl)-biphenyl-3-carboxylic acid(0.68 g, 1.87 mmol, 1 eq.) was treated with 1,1′-carbonyldiimidazole (0.31 g, 1.91 mmol, 1.02 eq.) and warmed as described. The reaction was allowed to cool and then treated with N′,N-dimethylethylenediamine (0.20 g, 2.24 mmol, 1.2 eq.). The reaction was treated as described in example 1 to give 4′-(2-phenoxy-ethylsulfanylmethyl)-biphenyl-3-carboxylic acid(2-dimethylamino-ethyl)-amide (0.76 g, 94% yield) as a faint yellow oil.

reactant | 4′-(2-phenoxy-ethylsulfanylmethyl)-biphenyl-3-carboxylic acid | 1.87 mmol, 0.68 g, 1 eq. | O(C1=CC=CC=C1)CCSCC1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)O | C22H20O3S
reactant | 1,1′-carbonyldiimidazole | 1.91 mmol, 0.31 g, 1.02 eq. | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N′,N-dimethylethylenediamine | 2.24 mmol, 0.20 g, 1.2 eq. | CNCCNC | C4H12N2
product | 4′-(2-phenoxy-ethylsulfanylmethyl)-biphenyl-3-carboxylic acid(2-dimethylamino-ethyl)-amide | 0.76 g, 94% yield | CN(CCNC(=O)C=1C=C(C=CC1)C1=CC=C(C=C1)CSCCOC1=CC=CC=C1)C | C26H30N2O2S
